US07763608B2
A mixture of 2-iodo-5-(2-oxopyridin-1(2H)-yl)benzoic acid prepared above (220 mg, 0.65 mmol), 4-hydroxymethylimidazole II-1 (126 mg, 1.29 mmol), 8-hydroxyquinoline (19 mg, 0.13 mmol) and K2CO3 (290 mg, 2.10 mmol) in DMSO (2 mL) was degassed with Ar before being charged with CuI (25 mg, 0.13 mmol). The mixture in a sealed tube was heated at 130° C. overnight. It was then purified by HPLC to give 2-(4-(hydroxymethyl)-1H-imidazol-1-yl)-5-(2-oxopyridin-1(2H)-yl)benzoic acid (92 mg). MS 312.1 (M+H).

reactant | 2-iodo-5-(2-oxopyridin-1(2H)-yl)benzoic acid | IC1=C(C(=O)O)C=C(C=C1)N1C(C=CC=C1)=O | C12H8INO3
reactant | 4-hydroxymethylimidazole | OCC=1N=CNC1 | C4H6N2O
reactant | 8-hydroxyquinoline | 0.13 mmol, 19 mg | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | K2CO3 | 2.10 mmol, 290 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
catalyst | CuI | 0.13 mmol, 25 mg | [Cu]I
product | 2-(4-(hydroxymethyl)-1H-imidazol-1-yl)-5-(2-oxopyridin-1(2H)-yl)benzoic acid | 92 mg | OCC=1N=CN(C1)C1=C(C(=O)O)C=C(C=C1)N1C(C=CC=C1)=O | C16H13N3O4
